US07893020B2
D-Homophenylalanine Benzyl ester Tosylate (2.48 g, 5.6 mmol) was suspended in ethyl acetate (25 mL) and a saturated solution of sodium bicarbonate in water was added in portions (25 mL) with stirring at 25° C. The water layer was extracted with ethyl acetate (3×10 mL). The combined organic extract was dried over anhydrous sodium sulfate, filtered and concentrated to dryness to afford D-Homophenylalanine Benzyl ester. The ester was dissolved in acetonitile (25 mL). NaNd-bis-Boc-L-Ornithine (2.0 g, 6.0 mmol) was then added followed by N-hydroxysuccinimide (50 mg) and dicyclohexylcarbodiimide (1.28 g, 6.2 mmol). The reaction was stirred at 25° C. for 30 hr, filtered and the filtrate concentrated to dryness to afford crude product. It was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1), which gave the title product (2.80 g) as white solid.

reactant | D-Homophenylalanine Benzyl ester Tosylate | 5.6 mmol, 2.48 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(C1=CC=CC=C1)OC([C@H](N)CCC1=CC=CC=C1)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | D-Homophenylalanine Benzyl ester | C(C1=CC=CC=C1)OC([C@H](N)CCC1=CC=CC=C1)=O | C17H19NO2
